### PR TITLE
[Merged by Bors] - feat: port Algebra.Lie.Basic

### PR DESCRIPTION
**Pull request by LukasMias**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ocfnash** [comment]
@LukasMias Thanks for doing this!

I decided to try to help out here since I wrote the original Lean 3 code and I feel it's about time I joined the porting effort.

There are still lots of errors which I don't know how to fix. If you fix them, then you'll be teaching me or else I should have time over the weekend to learn all the details myself.

**Comment by LukasMias** [comment]
> @LukasMias Thanks for doing this!
> 
> I decided to try to help out here since I wrote the original Lean 3 code and I feel it's about time I joined the porting effort.
> 
> There are still lots of errors which I don't know how to fix. If you fix them, then you'll be teaching me or else I should have time over the weekend to learn all the details myself.

Can't promise that I will have a lot of time for this this week unfortunately! My non-math job is catching up with me :) So feel free to experiment as much as you want with this file in the meantime. I'll make some small remarks now though

File: Mathlib/Algebra/Lie/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1094 @@
...
+
+lie bracket, jacobi identity, lie ring, lie algebra, lie module
+-/
+
+
+universe u v w w₁ w₂
+
+open Function
+
+-- Porting note: mathlib3 had a `@[protect_proj]` here, but adding `protected` to all the fields
```
Comment (LukasMias) [inline Mathlib/Algebra/Lie/Basic.lean:58]: Since protect_proj is currently not implemented as an attribute, we have no choice but to leave it out for now, but I think the decision of whether to include them in the long-run is a refactor which we might want to decide on after the port. The general consensus seems to be to keep things in sync with mathlib3 as much as possible for the time being

File: Mathlib/Algebra/Lie/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1144 @@
...
+
+instance : LieRingModule L (M →ₗ[R] N) where
+  bracket x f :=
+    { toFun := fun m => ⁅x, f m⁆ - f ⁅x, m⁆
+      map_add' := fun m n => by
+        simp only [lie_add, LinearMap.map_add]
+        abel
+      map_smul' := fun t m => by
+        simp only [smul_sub, LinearMap.map_smul, lie_smul, RingHom.id_apply] }
+  -- Porting note: TODO fill in these sorrys
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Basic.lean:229]: These `sorry`s can be closed by adding the following lemma:
```lean
@[simp] lemma LinearMap.coe_mk' {R M N : Type _} [Semiring R] [AddCommMonoid M] [AddCommMonoid N]
  [Module R M] [Module R N] {f : AddHom M N} (h) (m : M) :
  (LinearMap.mk f h : M →ₗ[R] N) m = f m :=
rfl
```
and then adding `LinearMap.mk_apply, AddHom.coe_mk` to the list of lemmas supplied to `simp only` in each of the missing proofs below (and also changing `abel_nf` to `abel`).

I suppose the point is that in Lean 4 we only have what we call "new style" structures in Lean 3 and so need more lemmas of this shape but I have some homework to do before I propose this as the solution (and anyway it would have to be generalised to the semilinear setting).

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean:229]: On second thought, perhaps the point is that [https://github.com/leanprover-community/mathlib4/blob/065e9956724008d1059577700fd676eaf25f35d5/Mathlib/Algebra/Module/LinearMap.lean#L272](LinearMap.coe_mk) should be changed from `f : M →+ M₃` to `f : AddHom M M₃`.

**Comment by ocfnash** [comment]
I asked a question about the `dangerousInstance` warnings from the linter [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Coercions.20in.20Mathlib4.20vs.20Mathlib3).

**Comment by ocfnash** [comment]
This now passes CI but I think needs a bit more work before it is ready for review.

I find running:
```
git diff 3f0545044671a93044faac2986409d3a659d6bee..HEAD Mathlib/Algebra/Lie/Basic.lean
```
is a useful way to see things that need attention. As of now I see the following:

1. Find out how to restore the `simp` attributes to `LieEquiv.apply_symm_apply` and `LieEquiv.symm_apply_apply` without upsetting the linter.
2. Be consistent about whether we're using `instance : CoeFun ...` or `instance : FunLike`. It's not clear to me this change should happen as part of the port but in any case we should be consistent.
3. Tidy up minor points mentioned in 'porting note' comments.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1134 @@
...
+  e.toLinearEquiv.injective
+#align lie_equiv.injective LieEquiv.injective
+
+protected theorem surjective (e : L₁ ≃ₗ⁅R⁆ L₂) :
+    Function.Surjective ((e : L₁ →ₗ⁅R⁆ L₂) : L₁ → L₂) :=
+  e.toLinearEquiv.surjective
+#align lie_equiv.surjective LieEquiv.surjective
+
+/-- A bijective morphism of Lie algebras yields an equivalence of Lie algebras. -/
+@[simps!]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Basic.lean:693]: @LukasMias How does `simps!` differ from `simps`? Why is it preferred here?

File: Mathlib/Algebra/Lie/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1134 @@
...
+  ⟨toFun'⟩
+
+/-- See Note [custom simps projection]. We need to specify this projection explicitly in this
+  case, because it is a composition of multiple projections. -/
+def Simps.apply (h : L₁ →ₗ⁅R⁆ L₂) : L₁ → L₂ :=
+  h
+#align lie_hom.simps.apply LieHom.Simps.apply
+
+-- Porting note: Does not work
+-- initialize_simps_projections LieHom (toLinearMap_toFun → apply)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Basic.lean:312]: I could not get this to work. Furthermore for reasons I don't understand `LieHom.toLinearMap_toAddHom_toFun` does not exist.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,1134 @@
...
+instance hasCoeToLieHom : Coe (L₁ ≃ₗ⁅R⁆ L₂) (L₁ →ₗ⁅R⁆ L₂) :=
+  ⟨toLieHom⟩
+#align lie_equiv.has_coe_to_lie_hom LieEquiv.hasCoeToLieHom
+
+instance hasCoeToLinearEquiv : Coe (L₁ ≃ₗ⁅R⁆ L₂) (L₁ ≃ₗ[R] L₂) :=
+  ⟨toLinearEquiv⟩
+#align lie_equiv.has_coe_to_linear_equiv LieEquiv.hasCoeToLinearEquiv
+
+/-- Coercion to a function. -/
+@[coe] def toFun' (e : L₁ ≃ₗ⁅R⁆ L₂) := e.toFun
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Basic.lean:562]: I have introduced these `toFun'` definitions (following a pattern elsewhere) to create a target for the `@[coe]` decorator so that the `CoeFun` expressions are not eagerly unfolded (which, amongst other things, interferes with simp-normal form).

An alternative would be to use `FunLike` and `EquivLike`. In fact @LukasMias did this for the `FunLike` cases but I reverted his changes in https://github.com/leanprover-community/mathlib4/pull/2262/commits/f4dca383e9126b3901c6b6ac627a88d95bcdedc3 because I expect future porting work will be easier without this change.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,1134 @@
...
+      { f with
+        invFun := g
+        left_inv := h₁
+        right_inv := h₂ } :=
+  rfl
+#align lie_equiv.to_linear_equiv_mk LieEquiv.to_linearEquiv_mk
+
+theorem coe_linearEquiv_injective : Injective ((↑) : (L₁ ≃ₗ⁅R⁆ L₂) → L₁ ≃ₗ[R] L₂) := by
+  rintro ⟨⟨⟨⟨f, -⟩, -⟩, -⟩, f_inv⟩ ⟨⟨⟨⟨g, -⟩, -⟩, -⟩, g_inv⟩
+  intro h
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Basic.lean:589]: For reasons I do not understand I cannot use the single invocation:
```lean
rintro ⟨⟨⟨⟨f, -⟩, -⟩, -⟩, f_inv⟩ ⟨⟨⟨⟨g, -⟩, -⟩, -⟩, g_inv⟩ h
```
(same remark applies to the proof of `LieModuleHom.toEquiv_injective`)

Comment (jcommelin) [reply Mathlib/Algebra/Lie/Basic.lean:589]: @digama0 Do you have an idea why this is?

File: Mathlib/Algebra/Lie/Basic.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Basic.lean:693]: `simps!` also works for "projections" that are not literally structure projections. At least that's my primitive understanding. And so with new structures we need this more often.

**Review by jcommelin — APPROVED** [review]

**Comment by jcommelin** [comment]
I've reviewed everything apart from the `coe` stuff. LGTM.
